US04703046
7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid (syn isomer, 0.8 g.) was treated with conc. hydrochloric acid (0.4 ml.) in a similar manner to that of Example 1-(2) to give 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid hydrochloride (syn isomer, 700 mg.).

reactant | 7-[2-(2-Formamido-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid | 0.8 g | C(=O)NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC)Br | C14H12BrN5O6S2
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
product | 7-[2-(2-amino-5-bromothiazol-4-yl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylic acid hydrochloride | 700 mg | Cl.NC=1SC(=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)=NOC)Br | InChI=1S/C13H12BrN5O5S2.ClH/c1-24-18-6(5-8(14)26-13(15)17-5)9(20)16-7-10(21)19-4(12(22)23)2-3-25-11(7)19;/h2,7,11H,3H2,1H3,(H2,15,17)(H,16,20)(H,22,23);1H/t7?,11-;/m1./s1
